US07982036B2
To a stirred solution of tert-butyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)piperidine-1-carboxylate (110 mg, 0.238 mmol) in dry CH2Cl2 (1.0 mL) at 0° C. was added CF3COOH (0.5 mL, 5 vol) and the reaction mixture was kept at this temperature for 30 min. It was allowed to come to rt and to stir at this temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the residue was quenched with water (2 mL), was basified with NaHCO3 solution, and was extracted with ethyl acetate (2×8 mL). The combined ethyl acetate extract was washed with water (2 mL), brine (2 mL), dried over Na2SO4 and concentrated under reduced pressure to give N4-(4-phenoxyphenyl)-N6-(piperidin-3-yl)pyrimidine-4,6-diamine (0.07 g, 81%) as a light yellow solid.

reactant | tert-butyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)piperidine-1-carboxylate | 0.238 mmol, 110 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC1CN(CCC1)C(=O)OC(C)(C)C | C26H31N5O3
reactant | CF3COOH | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N4-(4-phenoxyphenyl)-N6-(piperidin-3-yl)pyrimidine-4,6-diamine | 0.07 g, 81% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=NC=NC(=C1)NC1CNCCC1 | C21H23N5O
